US06248740B1
Production of N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine-2-carbonyl]glycine
928 mg of N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine-2carbonyl]glycine ethyl ester was dissolved in 7 ml of ethanol; 2.2 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 1.5 hours. The mixture was concentrated under reduced pressure; the residue was diluted with water; 1 N hydrochloric acid was added to bring the mixture to pH 4.5. The crystal obtained was collected by filtration, washed with water, acetone and ethyl acetate and dried to yield 443 mg of the title compound.

reactant | N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine-2carbonyl]glycine ethyl ester | 928 mg | C(C)OC(CNC(=O)C1=NN2N=C(C=CC2=N1)NCCCN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H37N7O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine-2-carbonyl]glycine | 443 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)N=C(N2)C(=O)NCC(=O)O)C2=CC=CC=C2 | C29H33N7O4
